US04092313
A 11.7 g quantity of metal potassium is added to 200 ml of absolute toluene, and a mixture of 28 g of phenol and 100 ml of absolute toluene is further added dropwise to dissolve the potassium. Subsequently 14.9 g of 2-chloro-5-fluoropyrimidin-4-one is added to the solution, and the mixture is stirred at 100° C for 8 hours. The reaction mixture is thereafter treated in the same manner as in Example 6 to give 13.2 g of white crystalline 2-phenoxy-5-fluoropyrimidin-4-one in a yield of 64.1%, m.p. 224°-225° C.

reactant | potassium | [K] | K
reactant | phenol | 28 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloro-5-fluoropyrimidin-4-one | 14.9 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phenoxy-5-fluoropyrimidin-4-one | 13.2 g, yield of 64.1% | O(C1=CC=CC=C1)C1=NC=C(C(N1)=O)F | C10H7FN2O2
